US08624040B2
Synthesis of tert-butyl 2-[(hydroxyamino)carbonyl]-6,7-dihydrothieno[3,2-c]pyridine-5(4H)-carboxylate (Compound 212)
A mixture of 5-tert-butyl 2-ethyl 6,7-dihydrothieno[3,2-c]pyridine-2,5(4H)-dicarboxylate (0.056 g, 0.18 mmol; prepared as described in J. Med. Chem. 2006, 49(15): 4623), hydroxylamine hydrochloride (0.037 mg, 0.54 mmol) and potassium hydroxide (0.1 mg, 1.8 mmol) in methanol (2 mL) was heated at 75° C. for 1 hour. Upon cooling to room temperature the reaction was quenched by the addition of acetic acid (100 μL, 1.8 mmol) and the solvent was evaporated to dryness. The residue was dissolved in DMSO (1 mL) and purified using a Gilson prep to afford a white solid (26.9 mg, 50%). LCMS (FA) ES+ 299; 1H NMR (400 MHz, MeOD) δ 7.27 (s, 1H), 4.46 (s, 2H), 3.71 (t, J=5.4 Hz, 2H), 2.84 (t, J=5.7 Hz, 2H), 1.48 (s, 9H).

reactant | 5-tert-butyl 2-ethyl 6,7-dihydrothieno[3,2-c]pyridine-2,5(4H)-dicarboxylate | 0.18 mmol, 0.056 g | S1C(=CC=2CN(CCC21)C(=O)OC(C)(C)C)C(=O)OCC | C15H21NO4S
reactant | hydroxylamine hydrochloride | 0.54 mmol, 0.037 mg | Cl.NO
reactant | potassium hydroxide | 1.8 mmol, 0.1 mg | [OH-].[K+]
reactant | acetic acid | 1.8 mmol, 100 μL | C(C)(=O)O | C2H4O2
solvent | methanol | 2 mL | CO | CH4O
product | tert-butyl 2-[(hydroxyamino)carbonyl]-6,7-dihydrothieno[3,2-c]pyridine-5(4H)-carboxylate | 26.9 mg, 50% | ONC(=O)C1=CC=2CN(CCC2S1)C(=O)OC(C)(C)C | C13H18N2O4S
